US08563717B2
Intermediate 46: 9-[2-(1-Ethyl-3-piperidinyl)ethyl]-2-{[(1S)-1-methylbutyl]oxy}-8-(methyloxy)-9H-purin-6-amine
A solution of 2-{[(1S)-1-methylbutyl]oxy}-8-(methyloxy)-9-[2-(3-piperidinyl)ethyl]-9H-purin-6-amine (45 mg, 0.124 mmol), iodoethane (0.012 ml, 0.149 mmol) and triethylamine (0.035 mL, 0.248 mmol) in DMF (3 ml) was heated at 50° C. for 18 hours.

reactant | 2-{[(1S)-1-methylbutyl]oxy}-8-(methyloxy)-9-[2-(3-piperidinyl)ethyl]-9H-purin-6-amine | 0.124 mmol, 45 mg | C[C@@H](CCC)OC1=NC(=C2N=C(N(C2=N1)CCC1CNCCC1)OC)N | C18H30N6O2
reactant | iodoethane | 0.149 mmol, 0.012 ml | ICC | C2H5I
reactant | triethylamine | 0.248 mmol, 0.035 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 9-[2-(1-Ethyl-3-piperidinyl)ethyl]-2-{[(1S)-1-methylbutyl]oxy}-8-(methyloxy)-9H-purin-6-amine | C(C)N1CC(CCC1)CCN1C2=NC(=NC(=C2N=C1OC)N)O[C@H](CCC)C | C20H34N6O2
